US08202879B2
4-Hydroxy-6-iodoquinazoline (250 mg), a catalytic amount of palladium (II) acetate and 1,3-bis(diphenylphosphino)propane were dissolved in N,N-dimethylformamide (3.8 ml) and methanol (1.5 ml) and 1.5 ml of triethylamine was added. After the interior of a reaction vessel was sufficiently replaced with a carbon monoxide gas, a reaction was performed at 80° C. for 20 hours under the carbon monoxide atmosphere. After completion of the reaction, the reaction mixture was poured into 10% aqueous citric acid, followed by extraction with ethyl acetate. The organic layer was washed with, water, and dried over sodium sulfate, and the filtrate was concentrated. The resulting residue was purified by silica gel column chromatography (eluting with ethyl acetate) to obtain 4-hydroxyquinazoline-6-carboxylic acid methyl ester (XII-1, 157 mg) as a brown solid.

reactant | 4-Hydroxy-6-iodoquinazoline | 250 mg | OC1=NC=NC2=CC=C(C=C12)I | C8H5IN2O
reactant | 1,3-bis(diphenylphosphino)propane | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | carbon monoxide | [C]=O | CO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylformamide | 3.8 ml | CN(C=O)C | C3H7NO
catalyst | palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 1.5 ml | CO | CH4O
product | 4-hydroxyquinazoline-6-carboxylic acid methyl ester | 157 mg | COC(=O)C=1C=C2C(=NC=NC2=CC1)O | C10H8N2O3
